US05358949
2.0 Grams of 4-chloro-8-methylcarbostyril, 5 ml of diethylamine, 0.2 g of copper iodide-copper powder mixture and 20 ml of N-methylpyrrolidone were placed in an autoclave and heated at 180°-190° C. for 10 hours. To the reaction mixture was added water, then extracted with ethyl acetate. The extract was washed with water, dried, and the solvent was removed by evaporation. The residue thus obtained was purified by a silica gel column chromatography (eluent: dichloromethane). The product was converted into hydrochloride by using ethanol-HCl, and recrystallized from acetone-diethyl ether to obtain 0.6 g of 4-diethylamino-8-methylcarbostyril hydrochloride. Light brown powdery substance. Melting point: 183°-186° C.

reactant | 4-chloro-8-methylcarbostyril | ClC1=CC(NC2=C(C=CC=C12)C)=O | C10H8ClNO
reactant | diethylamine | 5 ml | C(C)NCC | C4H11N
reactant | N-methylpyrrolidone | 20 ml | CN1C(CCC1)=O | C5H9NO
catalyst | copper iodide copper | 0.2 g | [Cu](I)I.[Cu]
solvent | water | O | H2O
product | 4-diethylamino-8-methylcarbostyril hydrochloride | 0.6 g | Cl.C(C)N(C1=CC(NC2=C(C=CC=C12)C)=O)CC | InChI=1S/C14H18N2O.ClH/c1-4-16(5-2)12-9-13(17)15-14-10(3)7-6-8-11(12)14;/h6-9H,4-5H2,1-3H3,(H,15,17);1H
